US05162316
7-Propylamino-4-oxo-2-(2-propoxyphenyl)-3,4-dihydropyrimido[4,5-d]pyrimidine
In a similar manner to Example 9 reaction of 7-methylthio-4-oxo-2-(2-propoxyphenyl)-3,4-dihydropyrimido[4,5-d]pyrimidine (0.60 g) and n-propylamine (1.44 g) in ethanol (20 ml) yielded the title compound, 0.46 g, m.p. 185°-7° C. (recrystallised from ethanol).

reactant | 7-methylthio-4-oxo-2-(2-propoxyphenyl)-3,4-dihydropyrimido[4,5-d]pyrimidine | 0.60 g | CSC1=NC=C2C(=N1)N=C(NC2=O)C2=C(C=CC=C2)OCCC | C16H16N4O2S
reactant | n-propylamine | 1.44 g | C(CC)N | C3H9N
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 7-Propylamino-4-oxo-2-(2-propoxyphenyl)-3,4-dihydropyrimido[4,5-d]pyrimidine | C(CC)NC1=NC=C2C(=N1)N=C(NC2=O)C2=C(C=CC=C2)OCCC | C18H21N5O2
